* source B1
R_R1         N06354 N06345  1 TC=0,0 
R_R2         N06391 N06345  1.43 TC=0,0 
V_V1         N06354 0 30Vdc
V_V2         N06345 N06387 8Vdc
X_F1    N06391 0 N06391 N06387 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 0.4
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
